US07728030B2
Methyl-4-(5-iodoindazole-1-yl)-benzoate
K2CO3 (7.35 g, 53.2 mmol) is suspended in 110 mL DMF. 4-(5-iodoindazole-1-yl)-benzoic acid (17.6 g, 48.33 mmol), dissolved in 25 mL DMF, is added dropwise. The reaction mixture is stirred for 30 min at r.t. Subsequently CH3I (3.31 mL, 53.2 mmol) is added dropwise (temperature rises to 30° C.). The reaction mixture is stirred overnight at r.t. and then poured on ice water. It is three times extracted with ethyl acetate. The combined organic extracts are washed twice with water and brine. After drying over Na2SO4 and filtration the solvent is evaporated. The residue is purified by chromatography (silicagel, eluents: ethyl acetate/hexane) yielding 14.03 g (76.8%) of the title compound.

reactant | K2CO3 | 53.2 mmol, 7.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(5-iodoindazole-1-yl)-benzoic acid | 48.33 mmol, 17.6 g | IC=1C=C2C=NN(C2=CC1)C1=CC=C(C(=O)O)C=C1 | C14H9IN2O2
reactant | CH3I | 53.2 mmol, 3.31 mL | CI | CH3I
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Methyl-4-(5-iodoindazole-1-yl)-benzoate | 14.03 g, 76.8% | COC(C1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)I)=O | C15H11IN2O2
